US07192982B2
(2S)-3-(4-{4-[3-(4-Fluoro-phenyl)-benzofuran-6-yloxy]-but-1-ynyl}-phenyl)-2-methoxy-propionic acid
The title compound was prepared from 6-But-3-ynyloxy-3-(4-fluoro-phenyl)-benzofuran and (2S)-2-methoxy-3-(4-trifluoromethanesulfonyloxy-phenyl)-propionic acid ethyl ester Example 1, Step A) following the procedure described in Example 40, Step C. The ethyl ester derivative was contaminated with starting triflate. The mixture was hydrolyzed using the Standard Procedure C. The residue was purified by chromatography. MS(ES) for C28H23FO5 [M−H]−: 457.2.

reactant | 6-But-3-ynyloxy-3-(4-fluoro-phenyl)-benzofuran | C(CC#C)OC1=CC2=C(C(=CO2)C2=CC=C(C=C2)F)C=C1 | C18H13FO2
reactant | (2S)-2-methoxy-3-(4-trifluoromethanesulfonyloxy-phenyl)-propionic acid ethyl ester | C(C)OC([C@H](CC1=CC=C(C=C1)OS(=O)(=O)C(F)(F)F)OC)=O | C13H15F3O6S
reactant | triflate | [O-]S(=O)(=O)C(F)(F)F
product | (2S)-3-(4-{4-[3-(4-Fluoro-phenyl)-benzofuran-6-yloxy]-but-1-ynyl}-phenyl)-2-methoxy-propionic acid | FC1=CC=C(C=C1)C1=COC2=C1C=CC(=C2)OCCC#CC2=CC=C(C=C2)C[C@@H](C(=O)O)OC | C28H23FO5
